US08012976B2
(E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one
To a stirred mixture of 4-((dimethylamino)methyl)benzaldehyde (4 g, 24.5 mmol) and anhydrous magnesium sulfate (15.8 g, 111.5 mmol) in anhydrous acetonitrile (100 mL) was added 4-amino-6-fluoroisobenzofuran-1(3H)-one (4 g, 22.3 mmol) at 0° C. After the addition, the mixture was stirred at reflux for 3 days. The mixture was filtered and the cake was washed with ethyl acetate (50 mL×3). The filtrate was concentrated to give crude product, which was re-crystallized with isopropanol to give the title compound (3.7 g, yield 55%). LC-MS (ESI) m/z: 314 (M+1)+.

reactant | 4-((dimethylamino)methyl)benzaldehyde | 24.5 mmol, 4 g | CN(C)CC1=CC=C(C=O)C=C1 | C10H13NO
reactant | magnesium sulfate | 111.5 mmol, 15.8 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-amino-6-fluoroisobenzofuran-1(3H)-one | 22.3 mmol, 4 g | NC1=C2COC(C2=CC(=C1)F)=O | C8H6FNO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 3.7 g, yield 55% | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC(=C2)F)=O)C=C1 | C18H17FN2O2
